US07816357B2
To a solution of 3,6-dichloro-4-(4-chlorophenyl)-5-(pyridin-4-yl)pyridazine (0.69 g, 2.1 mmol) in ethanol (10 ml) was added hydrazine monohydrate (1.2 ml, 24.7 mmol). The reaction was stirred at 80° C. for 1 h. After this time, the reaction mixture was concentrated under reduced pressure. The crude product was then suspended in THF and CDI (1.36 g, 8.4 mmol) was added. The reaction turned to brownish clear solution, then to a suspension again. After stirring for 20 min, ethyl acetate was added. The resulting solution was washed with water and saturated NaCl. The organic layer was dried over Na2SO4, filtered, and concentrated under reduced pressure. The crude material was purified by silica gel column chromatography eluting with a gradient of 5%-10% methanol-dichloromethane to give 6-chloro-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one as a brown sold (0.52 g) and 6-chloro-8-(4-chlorophenyl)-7-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one as light brown solid (0.27 g).

reactant | 3,6-dichloro-4-(4-chlorophenyl)-5-(pyridin-4-yl)pyridazine | 2.1 mmol, 0.69 g | ClC=1N=NC(=C(C1C1=CC=C(C=C1)Cl)C1=CC=NC=C1)Cl | C15H8Cl3N3
reactant | hydrazine monohydrate | 24.7 mmol, 1.2 ml | O.NN
reactant | CDI | 8.4 mmol, 1.36 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-chloro-7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | ClC=1C(=C(C=2N(N1)C(NN2)=O)C2=CC=NC=C2)C2=CC=C(C=C2)Cl | C16H9Cl2N5O
